US05008263
(a) 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)benzoic acid
A mixture of 4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzonitrile (12.0 g, 51.3 mmol) and 40% aqueous sodium hydroxide (55 ml) in absolute ethanol (55 ml) was heated at reflux for 11/2 hours. The solvent was removed under reduced pressure, and the brown residue was dissolved in water. The solution was chilled to 0° C. by the addition of ice. Glacial acetic acid (ca 33 ml) was added slowly. The buff solid which precipitated was filtered off, washed with water, and dried in vacuo at 70° C. Yield 9.14 g (70%).

reactant | 4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzonitrile | 51.3 mmol, 12.0 g | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(C#N)C=C1 | C14H10N4
reactant | sodium hydroxide | 55 ml | [OH-].[Na+]
reactant | ethanol | 55 ml | C(C)O | C2H6O
product | 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)benzoic acid | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(C(=O)O)C=C1 | C14H11N3O2
